US05247091
A mixture of 2-aminobenzonitrile (120 g), cyclohexanone (115.8 ml), conc hydrochloric acid (9.2 ml), and cuprous chloride (1.21 g) was heated under reflux for 3 days, with stirring. At the end of each 24 hr period, additional cuprous chloride (1.21 g) was added. At the end of the 3rd day, additional conc hydrochloric acid (47.3 ml) was added, and the mixture was cooled to ambient temperature. The precipitate was collected and washed with 10% hydrochloric acid to provide 160 g (67.0%) of 9-amino-1,2,3,4-tetrahydroacridine hydrate, mp 180°-185°.

reactant | 2-aminobenzonitrile | 120 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | cyclohexanone | 115.8 ml | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 9.2 ml | Cl | ClH
reactant | hydrochloric acid | 47.3 ml | Cl | ClH
product | 9-amino-1,2,3,4-tetrahydroacridine hydrate | 160 g, 67.0% | O.NC=1C2=CC=CC=C2N=C2CCCCC12 | InChI=1S/C13H14N2.H2O/c14-13-9-5-1-3-7-11(9)15-12-8-4-2-6-10(12)13;/h1,3,5,7H,2,4,6,8H2,(H2,14,15);1H2
